US06890955B2
36.6 g (332.40 mmol) of resorcinol and 42 g (331.78 mmol) of benzyl chloride are refluxed overnight in 250 ml of dry Me2CO in the presence of 46.6 g of K2CO3, with stirring. The mixture is cooled, filtered and evaporated. The residue obtained is diluted in 500 ml of water and extracted with ethanol. The organic layer is washed with 10% aqueous NaOH and extracted with ethanol. The red oil obtained is distilled with the aid of a bulb tube distillation apparatus to give 18 g of m-PhCH2OC6H4OH, b.p.15 240-245° C. (lit. b.p.11 202-210° C.). A solution of 3.3 g (16.5 mmol) of m-PhCH2OC6H4OH in 50 ml of DMF is treated with 0.8 g (16.5 mmol) of sodium hydride and the mixture is stirred for 15 minutes. After the addition of 13.75 ml (16.5 mmol) of epichlorohydrin, the mixture is stirred at 60° C. for one hour until alkylation is complete. The excess reagent and the solvent are evaporated off under reduced pressure and the residue is partitioned between the following two phases: ethyl acetate and water. The organic phase yields the epoxide, which is used without further purification.

reactant | resorcinol | 332.40 mmol, 36.6 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | benzyl chloride | 331.78 mmol, 42 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 46.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 500 ml | O | H2O
product | m-PhCH2OC6H4OH | 18 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)O | C13H12O2
